US09290485B2
To a mixture of Ethyl 1H-pyrazole-4-carboxylate (117 mg, 0.833 mmol), crude (4-((1H-pyrazol-1-yl)methyl)-3-methoxyphenyl)methanol (256 mg, 71%, 0.833 mmol) and Triphenylphosphine (328 mg, 1.249 mmol) in THF (8 ml) DEAD 40% in Toluene (0.494 ml, 1.249 mmol) was added slowly at 0° C. The reaction mixture was stirred at 0° C. for 2 h and continued to stir for 12 h at rt. A saturated solution of NaHCO3 was added and the mixture was extracted with ethyl acetate. The combined organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude Ethyl 1-(4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzyl)-1H-pyrazole-4-carboxylate. MS [M+H]+=341.

reactant | Ethyl 1H-pyrazole-4-carboxylate | 0.833 mmol, 117 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | (4-((1H-pyrazol-1-yl)methyl)-3-methoxyphenyl)methanol | 0.833 mmol, 256 mg | N1(N=CC=C1)CC1=C(C=C(C=C1)CO)OC | C12H14N2O2
reactant | Triphenylphosphine | 1.249 mmol, 328 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Toluene | 1.249 mmol, 0.494 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Ethyl 1-(4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzyl)-1H-pyrazole-4-carboxylate | N1(N=CC=C1)CC1=C(C=C(CN2N=CC(=C2)C(=O)OCC)C=C1)OC | C18H20N4O3
